US07429581B2
(i) 4-Iodo-1H-pyrazole-3,5-dicarboxylic acid diethyl ester
To a solution of 10 g 1H-Pyrazole-3,5-dicarboxylic acid diethyl ester in 400 ml acetonitrile 13 g ammonium cerium(iv) nitrate (CAN) and 7.17 g iodine were added and the mixture was heated to reflux for 5 h. Then, after cooling to RT, 30 ml sat. sodium thiosulfate solution were added. The mixture was extracted with ethyl acetate (3×100 ml), the combined organic layers were washed with water and then dried over MgSO4, filtered and the solvents were removed under reduced pressure. The residue was filtered through a pad of silica gel eluting with heptane/ethyl acetate 1:1.

reactant | 1H-Pyrazole-3,5-dicarboxylic acid diethyl ester | 10 g | C(C)OC(=O)C1=NNC(=C1)C(=O)OCC | C9H12N2O4
reactant | iodine | 7.17 g | II | I2
reactant | sodium thiosulfate | 30 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 400 ml, 13 g | C(C)#N | C2H3N
product | 4-Iodo-1H-pyrazole-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=NNC(=C1I)C(=O)OCC | C9H11IN2O4
